US06967208B2
To valerolactam (5.6 g, 55 mmol) in CHCl3 was added PCl5 (34.6 g, 166 mmol) and the reaction was heated to reflux 24 h. The reaction was cooled, quenched with H2O, extracted with CHCl3 and dried (MgSO4) to afford crude 3,3-dichloro-2-piperidinone.

reactant | valerolactam | 55 mmol, 5.6 g | C1(CCCCN1)=O | C5H9NO
reactant | PCl5 | 166 mmol, 34.6 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 3,3-dichloro-2-piperidinone | ClC1(C(NCCC1)=O)Cl | C5H7Cl2NO
